US06169107A
The reaction was carried out in a manner similar to Example 1 except for using 1.00 g (3.30 mmol) of methyl 1-[2-(2-tetrahydropyranyl)oxyethyl]-2-indolecarboxylate, 3.15 g (33.0 mmol) of guanidine hydrochloride and a methanol solution of 1.78 g (33.0 mmol) of sodium methoxide. 1-[2-(2-Tetrahydropyranyl)oxyethyl]-2-indoloylguanidine was obtained in an amount of 0.85 g. Thereafter 0.69 g of the thus obtained compound was dissolved in hydrochloric acid/methanol. The solution was stirred at room temperature for 5.5 hours. The reaction mixture was concentrated under reduced pressure and a solvent mixture of methanol and diethyl ether was added to the resulting residue. The precipitates formed were filtered and dried under reduced pressure to give 0.49 g (65%) of 1-(2-hydroxyethyl)-2-indoloylguanidine hydrochloride.

reactant | methyl 1-[2-(2-tetrahydropyranyl)oxyethyl]-2-indolecarboxylate | 3.30 mmol, 1.00 g | O1C(CCCC1)OCCN1C(=CC2=CC=CC=C12)C(=O)OC | C17H21NO4
reactant | guanidine hydrochloride | 33.0 mmol, 3.15 g | Cl.NC(=N)N
reactant | sodium methoxide | 33.0 mmol, 1.78 g | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 1-[2-(2-Tetrahydropyranyl)oxyethyl]-2-indoloylguanidine | O1C(CCCC1)OCCNC(=NC(=O)C=1NC2=CC=CC=C2C1)N | C17H22N4O3
